US09079156B2
The ionic fluids prepared are used for carrying out the dehydration reaction at room temperature, for example 3,4 dimethyl benzaldehyde is reacted with sorbitol to form 3,4-dimethylbenzylidene sorbitol.

reactant | 3,4 dimethyl benzaldehyde | CC=1C=C(C=O)C=CC1C | C9H10O
reactant | sorbitol | OC[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H14O6
product | 3,4-dimethylbenzylidene sorbitol | CC=1C=C(C=C(O)[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO)C=CC1C | C15H22O6
